US03987182
A. 2'-nitro-4'-trifluoromethylisobutyranilide
Reflux 187.3 g. of 2-nitro-4-trifluoromethylaniline and 320 g. of isobutyric anhydride together for two hours. Remove the excess anhydride and the resulting isobutyric acid in vacuo. Recrystallize from hexane, obtaining the product of this step.

reactant | 2-nitro-4-trifluoromethylaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)C(F)(F)F | C7H5F3N2O2
reactant | isobutyric anhydride | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
product | 2'-nitro-4'-trifluoromethylisobutyranilide | [N+](=O)([O-])C1=C(NC(C(C)C)=O)C=CC(=C1)C(F)(F)F | C11H11F3N2O3
